US05250548
Ethyl 1-(N-butylamino)benzene-2-carboxylate
A mixture of ethyl anthranilate (4.96 g, 30 mmol), potassium carbonate (13.8 g, 100 mmol), and n-butyl iodide (25 mL) was stirred at ambient temperature for 48 hours and refluxed for 8 hours. The cooled reaction mixture was diluted with ethyl acetate and filtered. The filtrate was concentrated under reduced pressure and the residue obtained chromatographed eluting with ethyl acetate/hexane mixtures to afford the title comound as a light yellow liquid (2.2 g, 33%).

reactant | ethyl anthranilate | 30 mmol, 4.96 g | C(C=1C(N)=CC=CC1)(=O)OCC | C9H11NO2
reactant | potassium carbonate | 100 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-butyl iodide | 25 mL | C(CCC)I | C4H9I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 1-(N-butylamino)benzene-2-carboxylate | 2.2 g, 33% | C(CCC)NC1=C(C=CC=C1)C(=O)OCC | C13H19NO2
